US06054470
5-Iodo-4-methyl-3-nitro-2-pyridone.
To a solution of 4-methyl-3-nitro-2-pyridone (2.00 g, 13 mmol) in acetic acid (12 mL) and concentrated sulfuric acid (1.6 mL) was added iodine (1.32 g) and sodium iodate (0.55 g). The mixture was heated at 75° C. for 2.5 hours and then stirred at rt overnight. Water (100 mL) was added, and the precipitated 5-iodo-4-methyl-3-nitro-2-pyridone was collected by filtration (2.97 g, 82%).

reactant | 4-methyl-3-nitro-2-pyridone | 13 mmol, 2.00 g | CC1=C(C(NC=C1)=O)[N+](=O)[O-] | C6H6N2O3
reactant | iodine | 1.32 g | II | I2
reactant | sodium iodate | 0.55 g | I(=O)(=O)[O-].[Na+]
reactant | Water | 100 mL | O | H2O
solvent | acetic acid | 12 mL | C(C)(=O)O | C2H4O2
solvent | sulfuric acid | 1.6 mL | S(O)(O)(=O)=O | H2O4S
product | 5-Iodo-4-methyl-3-nitro-2-pyridone | IC=1C(=C(C(NC1)=O)[N+](=O)[O-])C | C6H5IN2O3
